* Sheet Name: /
U2  Net-_U2-Pad1_ Net-_U2-Pad2_ Net-_U2-Pad3_ Net-_U2-Pad4_ Net-_U2-Pad5_ Net-_U2-Pad6_ Net-_U2-Pad7_ Net-_U2-Pad8_ Net-_U2-Pad9_ Net-_U2-Pad10_ Net-_U2-Pad11_ Net-_U2-Pad12_ vishnu_2bitcomp		
U6  A1 A0 B1 B0 Net-_U2-Pad1_ Net-_U2-Pad2_ Net-_U2-Pad3_ Net-_U2-Pad4_ adc_bridge_4		
U8  Net-_U2-Pad5_ Net-_U2-Pad6_ Net-_U2-Pad7_ Net-_U2-Pad8_ Net-_U2-Pad9_ Net-_U2-Pad10_ Net-_U2-Pad11_ Net-_U2-Pad12_ Net-_SC10-Pad2_ Net-_SC15-Pad2_ Net-_SC16-Pad2_ Net-_SC11-Pad2_ Net-_SC12-Pad2_ Net-_SC1-Pad2_ Net-_SC3-Pad2_ Net-_SC4-Pad2_ dac_bridge_8		
SC14  Net-_SC14-Pad1_ Net-_SC10-Pad2_ Net-_SC14-Pad3_ Net-_SC14-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC15  Net-_SC15-Pad1_ Net-_SC15-Pad2_ Net-_SC14-Pad1_ Net-_SC14-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC16  Net-_SC10-Pad1_ Net-_SC16-Pad2_ Net-_SC15-Pad1_ Net-_SC14-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC10  Net-_SC10-Pad1_ Net-_SC10-Pad2_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC17  Net-_SC10-Pad1_ Net-_SC15-Pad2_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC18  Net-_SC10-Pad1_ Net-_SC16-Pad2_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC21  Lessthan Net-_SC10-Pad1_ Net-_SC14-Pad3_ Net-_SC14-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC9  Net-_SC11-Pad1_ Net-_SC11-Pad2_ Net-_SC13-Pad3_ Net-_SC13-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC13  Net-_SC11-Pad1_ Net-_SC12-Pad2_ Net-_SC13-Pad3_ Net-_SC13-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC11  Net-_SC11-Pad1_ Net-_SC11-Pad2_ Net-_SC11-Pad3_ GND sky130_fd_pr__nfet_01v8_lvt		
SC12  Net-_SC11-Pad3_ Net-_SC12-Pad2_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC19  ET Net-_SC11-Pad1_ Net-_SC13-Pad3_ Net-_SC13-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC2  Net-_SC2-Pad1_ Net-_SC1-Pad2_ Net-_SC2-Pad3_ Net-_SC2-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC3  Net-_SC3-Pad1_ Net-_SC3-Pad2_ Net-_SC2-Pad1_ Net-_SC2-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC4  Net-_SC1-Pad1_ Net-_SC4-Pad2_ Net-_SC3-Pad1_ Net-_SC2-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC1  Net-_SC1-Pad1_ Net-_SC1-Pad2_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC5  Net-_SC1-Pad1_ Net-_SC3-Pad2_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC6  Net-_SC1-Pad1_ Net-_SC4-Pad2_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC7  Greaterthan Net-_SC1-Pad1_ Net-_SC2-Pad3_ Net-_SC2-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
v7  Net-_SC14-Pad3_ GND DC		
v6  Net-_SC13-Pad3_ GND DC		
v5  Net-_SC2-Pad3_ GND DC		
v1  A1 GND pulse		
v2  A0 GND pulse		
v3  B1 GND pulse		
v4  B0 GND pulse		
U10  Lessthan plot_v1		
U9  ET plot_v1		
U7  Greaterthan plot_v1		
U5  A1 plot_v1		
scmode1  SKY130mode		
SC22  Lessthan Net-_SC10-Pad1_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC20  ET Net-_SC11-Pad1_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC8  Greaterthan Net-_SC1-Pad1_ GND GND sky130_fd_pr__nfet_01v8_lvt		
U1  A0 plot_v1		
U3  B1 plot_v1		
U4  B0 plot_v1		

.end
